US07795326B2
Preparation of Poly(TRIS/NIPAM/methyl methacrylate)—1.4/1/0.2 parts by weight
A 25 ml reaction vessel was charged with 36 g ethyl acetate, 2.15 g (0.005 mol) TRIS, 1.58 g (0.016 mol) methyl methacrylate, 0.32 g (0.003 mol) NIPAM, and 0.078 g. 2,2′-azobis(2-methylbutanenitrile). After nitrogen flushing for 3 minutes, the vessel was closed and placed in an oil bath. The polymerization was run for 18 hours at 61-65° C. The polymer was precipitated into water and dried at room temperature (20° C.). The polymer was soluble in HMDS.

reactant | methyl methacrylate | 0.016 mol, 1.58 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | NIPAM | 0.003 mol, 0.32 g | CC(C)NC(=O)C=C | C6H11NO
reactant | 2,2′-azobis(2-methylbutanenitrile) | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
solvent | ethyl acetate | 36 g | C(C)(=O)OCC | C4H8O2
product | NIPAM methyl methacrylate | CC(C)NC(=O)C=C.C(C(=C)C)(=O)OC | InChI=1S/C6H11NO.C5H8O2/c1-4-6(8)7-5(2)3;1-4(2)5(6)7-3/h4-5H,1H2,2-3H3,(H,7,8);1H2,2-3H3
